US05059609
7,8Dihydro-7-methyl-3-nitro-5(6H)-quinolone
Sodium nitromalonaldehyde (Org. Synth. Coll., vol. 4, p. 844; 42.4 g, 0.269 mol) was dissolved in 200 ml of dimethylformamide and the resulting solution dried over 4A-type molecular sieves, recovered by filtration with 100 ml of the same solvent for wash. To the combined filtrate and wash was added pyridine (91 ml, 89 g, 1.13 mol) and the mixture cooled to -5° C. Tosyl chloride (53 g, 0.277 mol) in 200 ml of dimethylformamide was added dropwise, maintaining a temperature of -5° to -8° C., and the reaction mixture allowed to warm to room temperature. The title product of the preceding Preparation (33.6 g, 0.270 mol), dissolved by warming in 200 ml of dimethylformamide and added in a steady stream to the reaction mixture, which was then stirred for 18 hours at room temperature, then poured into 2 liters of ice and water and extracted 2×1 liter of ethyl acetate. The organic layers wre combined, dried over MgSO and stripped to yield present title product, 33 g (61%), m.p. 64°-67° C.

reactant | Sodium nitromalonaldehyde | 0.269 mol, 42.4 g | [N+](=O)([O-])C(C=O)C=O.[Na]
reactant | pyridine | 1.13 mol, 91 ml, 89 g | N1=CC=CC=C1 | C5H5N
reactant | Tosyl chloride | 0.277 mol, 53 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 7,8Dihydro-7-methyl-3-nitro-5(6H)-quinolone | CC1CC(C=2C=C(C=NC2C1)[N+](=O)[O-])=O | C10H10N2O3
